US08389511B2
tert-Butyl (3S,4S)-3-hydroxy-4-phenylpiperidine-1-carboxylate
To a solution of tert-butyl (3R,4R)-3,4-dihydroxy-4-phenylpiperidine-1-carboxylate (120 g) in ethanol (4.3 L) was added Raney nickel (240 g), and the mixture was refluxed for 48 hours with bubbling of hydrogen gas. The reaction solution was cooled, and filtered on celite, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give the title compound (105.1 g, 99.4% ee).

reactant | tert-butyl (3R,4R)-3,4-dihydroxy-4-phenylpiperidine-1-carboxylate | 120 g | O[C@@H]1CN(CC[C@]1(C1=CC=CC=C1)O)C(=O)OC(C)(C)C | C16H23NO4
solvent | ethanol | 4.3 L | C(C)O | C2H6O
catalyst | Raney nickel | 240 g | [Ni] | Ni
product | tert-Butyl (3S,4S)-3-hydroxy-4-phenylpiperidine-1-carboxylate | 105.1 g | O[C@@H]1CN(CC[C@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C16H23NO3
